US09162953B2
Preparation of 1-phenyl-1H-imidazole
Following General Procedure A (90° C., 30 hours), 1H-imidazole (102 mg, 1.5 mmol) is coupled with iodo-benzene (112 μL, 1.0 mmol). The crude brown oil is purified by flash chromatography on silica gel (eluent: hexane/ethylacetate=20/80) to provide 130 mg (90% isolated yield) of the desired product as a light yellow oil.

reactant | 1H-imidazole | 1.5 mmol, 102 mg | N1C=NC=C1 | C3H4N2
reactant | iodo-benzene | 1.0 mmol, 112 μL | IC1=CC=CC=C1 | C6H5I
product | 1-phenyl-1H-imidazole | C1(=CC=CC=C1)N1C=NC=C1 | C9H8N2
